US05500426
1,4-dibenzyl-2-ethoxycarbonylpiperazine (dihydrochloride)
80 g (0.31 mol) of ethyl 2,3-dibromopropionate diluted in 300 ml of benzene are added dropwise, but fairly rapidly, to a warm solution of 72 g (0.3 mol) of N,N'-dibenzylethylenediamine, 700 ml of benzene and 50 ml (0.36 mol) of triethylamine. After the addition, reflux is maintained for 3 hours (triethylamine hydrobromide precipitates in the reaction mixture). The mixture is cooled and filtered through fritted glass, and the solid is washed with ether. The filtrate is washed with 200 ml of saturated sodium hydrogen carbonate solution and then twice with 100 ml of water. The organic phases are dried over magnesium sulfate and the solvents are evaporated off in vacuo. Approximately 100 ml of toluene are added, and evaporation is continued. The resulting residue is diluted in 400 ml of absolute ethanol and saturated with gaseous hydrogen chloride. The salt precipitates by the addition of ether. Filtering, washing with ether and drying yield from 100 to 110 g of white crystals.

reactant | ethyl 2,3-dibromopropionate | 0.31 mol, 80 g | BrC(C(=O)OCC)CBr | C5H8Br2O2
reactant | N,N'-dibenzylethylenediamine | 0.3 mol, 72 g | C(C1=CC=CC=C1)NCCNCC1=CC=CC=C1 | C16H20N2
reactant | triethylamine | 0.36 mol, 50 ml | C(C)N(CC)CC | C6H15N
reactant | triethylamine hydrobromide | Br.C(C)N(CC)CC
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 700 ml | C1=CC=CC=C1 | C6H6
product | 1,4-dibenzyl-2-ethoxycarbonylpiperazine | 100 to 110 g, Yield: 89% | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)C(=O)OCC | C21H26N2O2
